US04788195
4-[[4-(3-Pyridinyl)-2-pyrimidinyl]amino]phenol
A 25.0 g portion of N-(4-methoxyphenyl)-4-(3-pyridinyl)-2-pyrimidinamine was dissolved in 200 ml of 48% hydrobromic acid and stirred overnight under an argon atmosphere. The mixture was then heated on a steam bath for 7 hours, cooled overnight and evaporated at 60° C. The residue was basified with 200 ml of saturated potassium bicarbonate solution and stirred for 1.5 hours. The solid was collected, washed with water, dried and recrystallized from hot absolute ethanol, giving 19.1 g of the desired product, mp 223°-225° C.

reactant | N-(4-methoxyphenyl)-4-(3-pyridinyl)-2-pyrimidinamine | COC1=CC=C(C=C1)NC1=NC=CC(=N1)C=1C=NC=CC1 | C16H14N4O
solvent | hydrobromic acid | 200 ml | Br | BrH
product | 4-[[4-(3-Pyridinyl)-2-pyrimidinyl]amino]phenol | 19.1 g | N1=CC(=CC=C1)C1=NC(=NC=C1)NC1=CC=C(C=C1)O | C15H12N4O
